US06417212B1
A. 2-(5-Benzyloxy-2-but-1-enylphenoxy)-2-methylpropionic acid ethyl ester
5-Benzyloxy-2-but-1-enylphenol (0.70 g, 2.75 mmol) (see Ex. 40, part A) was dissolved in anhydrous DMF (12 mL), followed by the addition of ethyl bromoisobutyrate (1.62 mL, 11.0 mmol), and cesium carbonate (3.58 g, 11.0 mmol). The mixture was then heated for 18 h (55° C.). The reaction mixture was then cooled and concentrated in vacuo. The crude residue was partitioned between ethyl acetate (70 mL) and water (40 mL). The organic layer was washed with brine, dried (Na2SO4), and removed in vacuo. The crude residue was purified using radial chromatography, eluting with 5% ethyl acetate/hexanes to give 0.77 g (76%) of a colorless oil. 1H NMR (400 MHz, CDCl3) δ7.41-7.28 (m, 6H), 6.65-6.59 (m, 2H), 6.40 (d, J 2.4 Hz, 1H), 6.14-6.07 (m, 1H), 4.99 (s, 2H), 4.22 (q, J=7.2 Hz, 2H), 2.22 (quintet, J=7.6 Hz, 2H), 1.56 (s, 6H), 1.26 (t, J=7.1 Hz, 3H), 1.08 (t, J=7.6 Hz, 3H), MS (ES) m/e 369 (M+1).

reactant | 5-Benzyloxy-2-but-1-enylphenol | 2.75 mmol, 0.70 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)O)C=CCC | C17H18O2
reactant | ethyl bromoisobutyrate | 11.0 mmol, 1.62 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | cesium carbonate | 11.0 mmol, 3.58 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 2-(5-Benzyloxy-2-but-1-enylphenoxy)-2-methylpropionic acid ethyl ester | 0.77 g, 76% | C(C)OC(C(C)(C)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C=CCC)=O | C23H28O4
